US04125732
Methyl(α,α,α-trifluoro-m-tolyloxy) {p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate
As described in Example 30, a mixture of 3.4 g of m-trifluoromethylphenol, 0.755 g of 60% sodium hydride-oil dispersion, 3.5 g of potassium iodide, one ml of hexamethylphosphoramide and 7.9 g of methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate in 70 ml of tetrahydrofuran is refluxed for 18 hours and worked-up to give 10 g of oil. Purification gives 8.6 g of light amber oil.

reactant | m-trifluoromethylphenol | 3.4 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | sodium hydride | 0.755 g | [H-].[Na+]
reactant | potassium iodide | 3.5 g | [I-].[K+]
reactant | methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 7.9 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C18H18BrClO4
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | one ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Methyl(α,α,α-trifluoro-m-tolyloxy) {p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 10 g | ClC1=CC=C(OCCCOC2=CC=C(C=C2)CC(=O)OOC=2C(=C(C=CC2)C(F)(F)F)C)C=C1 | C25H22ClF3O5
